US06191138B1
With vigorous stirring, chlorodifluoromethane is introduced into a mixture of 200 g of isovanillin, 6.7 g of benzyltrimethylammonium chloride, 314 g of 50% strength aqueous sodium hydroxide solution and 2 l of dioxane for approximately 2 h. The mixture is subsequently partitioned between ice-water and ethyl acetate, the organic phase is separated off, the aqueous phase is extracted twice with ethyl acetate and the combined organic phases are dried over magnesium sulfate and concentrated under reduced pressure. To remove unreacted isovanillin, the oil is chromatographed over neutral silica gel using toluene. Evaporation of the eluate gives 249 g of 3-difluoromethoxy-4-methoxybenzaldehyde as an oil.

reactant | chlorodifluoromethane | ClC(F)F | CHClF2
reactant | isovanillin | 200 g | O=CC1=CC(O)=C(OC)C=C1 | C8H8O3
reactant | sodium hydroxide | [OH-].[Na+]
catalyst | benzyltrimethylammonium chloride | 6.7 g | [Cl-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | dioxane | 2 l | O1CCOCC1 | C4H8O2
product | 3-difluoromethoxy-4-methoxybenzaldehyde | 249 g | FC(OC=1C=C(C=O)C=CC1OC)F | C9H8F2O3
